US05563295
(1) Synthesis of 2,2'-dibromo-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthyl (compound 1)
A 500 ml capacity stainless steel autoclave was charged with 35 g (0.085 mol) of 2,2'-dibromo-1,1'-binaphthyl, 5.25 g of 5%-ruthenium-carbon (manufactured by NECHEMCAT), 130 ml of ethyl acetate and 130 ml of 95% ethanol. After carrying out 20 hours of hydrogenation at a temperature of 100° C. under a hydrogen pressure of 50 kg/cm2, absorption of 4 mols of hydrogen per mol substrate was confirmed. The reaction mixture was cooled to 30° C. to remove the catalyst by filtration, the resulting filtrate was allowed to stand overnight at room temperature and then 30.6 g of the thus precipitated crystals were collected by filtration (yield, 85.7%).

reactant | 2,2'-dibromo-1,1'-binaphthyl | 0.085 mol, 35 g | BrC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)Br | C20H12Br2
reactant | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | 4 mols | [H][H] | H2
catalyst | ruthenium-carbon | [C].[Ru]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2,2'-dibromo-5,5',6,6',7,7',8,8'-octahydro-1,1'-binaphthyl | BrC1=C(C=2CCCCC2C=C1)C1=C(C=CC=2CCCCC12)Br | C20H20Br2
